US08039450B2
To a solution of 4-fluoro-3-hydroxybenzonitrile (25.0 g, 182 mmol), diisopropylethylamine (47.7 mL, 273 mmol) in dichloromethane (530 mL) was added chloromethyl methyl ether (16.6 mL, 219 mmol) dropwise at 0° C., and the mixture was stirred at room temperature overnight. Water was added, and the mixture was extracted with dichloromethane. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 4-fluoro-3-methoxymethoxybenzonitrile (33.0 g, quant.), which was used for the next step without purification.

reactant | 4-fluoro-3-hydroxybenzonitrile | 182 mmol, 25.0 g | FC1=C(C=C(C#N)C=C1)O | C7H4FNO
reactant | diisopropylethylamine | 273 mmol, 47.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 219 mmol, 16.6 mL | COCCl | C2H5ClO
reactant | Water | O | H2O
solvent | dichloromethane | 530 mL | ClCCl | CH2Cl2
product | 4-fluoro-3-methoxymethoxybenzonitrile | 33.0 g | FC1=C(C=C(C#N)C=C1)OCOC | C9H8FNO2
